US08053457B2
(4-Pyridin-2-ylmethyl-piperidin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 2-Piperidin-4-ylmethyl-pyridine (commercially available from Array Biopharma) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+=216.2.

reactant | 2-Piperidin-4-ylmethyl-pyridine | N1CCC(CC1)CC1=NC=CC=C1 | C11H16N2
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Pyridin-2-ylmethyl-piperidin-1-yl)-acetonitrile | N1=C(C=CC=C1)CC1CCN(CC1)CC#N | C13H17N3
